US05416065
Preparation of 4-difluoromethoxy-pyrazolidine- N,N'-dicarboxylic acid di-tert-butyl ester
0.2 g of tetrabutylammonium fluoride and 5.6 g of potassium hydroxide powder are added to a solution of 6.9 g of 4-hydroxy-pyrazolidine-N,N'-dicarboxylic acid di-tert-butyl ester in 60 ml of tetrahydrofuran. At a maximum of 45° C., 8.0 g of chlorodifluoromethane are introduced. The reaction solution is then filtered, concentrated and purified by means of column chromatography to yield 2.7 g of the desired product, 4-difluoromethoxy-pyrazolidine-N,N'-dicarboxylic acid di-tert-butyl ester, in the form of a yellow oil.

reactant | potassium hydroxide | 5.6 g | [OH-].[K+]
reactant | 4-hydroxy-pyrazolidine-N,N'-dicarboxylic acid di-tert-butyl ester | 6.9 g | C(C)(C)(C)OC(=O)N1N(CC(C1)O)C(=O)OC(C)(C)C | C13H24N2O5
reactant | chlorodifluoromethane | 8.0 g | ClC(F)F | CHClF2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium fluoride | 0.2 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-difluoromethoxy-pyrazolidine- N,N'-dicarboxylic acid di-tert-butyl ester | 2.7 g | C(C)(C)(C)OC(=O)N1N(CC(C1)OC(F)F)C(=O)OC(C)(C)C | C14H24F2N2O5
